US07691818B2
2.a) Synthesis of N-Cbz-pyrrolidinone
To a solution of 2-pyrrolidinone (1.7 g, 21 mmol) in dry THF (25 mL), at −78° C., a 2.5 N solution of n-buthyllithium in n-hexane (8.4 mL, 21 mmol) is added. The mixture is stirred for 30′ and then a solution of benzyl chlorformate (3.03 mL, 21 mmol) in dry THF (30 mL) is added dropwise. The reaction mixture is stirred until the reaction is complete, quenched with saturated aqueous NH4Cl and ectracted with diethyl ether (3×). The combined organic phase is washed with brine and dried over anhydrous Na2SO4. Evaporation of the solvent gives 4 g (87%) of a colourless oil that is used without any further purification.

reactant | 2-pyrrolidinone | 21 mmol, 1.7 g | N1C(CCC1)=O | C4H7NO
reactant | n-hexane | 21 mmol, 8.4 mL | CCCCCC | C6H14
reactant | benzyl chlorformate | 21 mmol, 3.03 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-Cbz-pyrrolidinone | 4 g, 87% | C(=O)(OCC1=CC=CC=C1)N1C(CCC1)=O | C12H13NO3
